US07351719B2
Z39b) 4-(2-diethylamino-ethoxy)-3-methyl-phenylamine
3.10 g (12.3 mmol) diethyl-[2-(2-methyl-4-nitro-phenoxy)-ethyl]-amine were dissolved in 250 mL ethyl acetate, 0.55 g Raney nickel was added and the mixture was hydrogenated for 36 hours at 50 psi and ambient temperature. The catalyst was filtered off and the filtrate evaporated down i. vac.

reactant | diethyl-[2-(2-methyl-4-nitro-phenoxy)-ethyl]-amine | 12.3 mmol, 3.10 g | C(C)N(CCOC1=C(C=C(C=C1)[N+](=O)[O-])C)CC | C13H20N2O3
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 0.55 g | [Ni] | Ni
product | 4-(2-diethylamino-ethoxy)-3-methyl-phenylamine | C(C)N(CCOC1=C(C=C(C=C1)N)C)CC | C13H22N2O
